US07238689B2
2.96 g of m-chloroperbenzoic acid (purity: 70%, 12.00 mmoles) was added, with ice-cooling, to a solution of 1.38 g (5.00 mmoles) of [(5-chloro-3-methyl-isothiazol-4-yl)-methylthio]-5,5-dimethyl-2-isoxazoline dissolved in 20 ml of chloroform. The mixture was stirred for 1 hour and then at room temperature for overnight to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with chloroform. The resulting organic layer was washed with an aqueous sodium hydrogensulfite solution, an aqueous sodium hydrogencarbonate solution and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The reside was purified by silica gel column chromatography to obtain 0.65 g (yield: 47.0%) of [(5-chloro-3-methyl-isothiazol-4-yl)-methylsulfonyl]-5,5-dimethyl-2-isoxazoline as a light yellow powder (melting point: 113 to 114° C.)

reactant | m-chloroperbenzoic acid | 12.00 mmoles, 2.96 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | [(5-chloro-3-methyl-isothiazol-4-yl)-methylthio]-5,5-dimethyl-2-isoxazoline | 5.00 mmoles, 1.38 g | ClC1=C(C(=NS1)C)CSC1=NOC(C1)(C)C | C10H13ClN2OS2
reactant | water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | [(5-chloro-3-methyl-isothiazol-4-yl)-methylsulfonyl]-5,5-dimethyl-2-isoxazoline | 0.65 g, yield: 47.0% | ClC1=C(C(=NS1)C)CS(=O)(=O)C1=NOC(C1)(C)C | C10H13ClN2O3S2
